US07897597B2
A modification of the general method described in Part C of Example 3 was followed using 8-benzyloxy-1-(2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinoline (2.0 g, 5.8 mmol) as the starting material. The reaction with trichloroacetyl isocyanate was not complete after one hour as evidenced by a TLC analysis. Additional trichloroacetyl isocyanate (0.1 equivalent) was added, and the reaction was stirred for an additional hour. Following the reaction with sodium methoxide, the solid product was isolated by filtration and recrystallized from ethanol. The crystals were dried overnight in a vacuum oven at 45° C. to provide 1.6 g of 8-benzyloxy-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 214-216° C.

reactant | 8-benzyloxy-1-(2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinoline | 5.8 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=CN3CC(C)C | C21H21N3O2
reactant | trichloroacetyl isocyanate | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | trichloroacetyl isocyanate | 0.1 equivalent | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | sodium methoxide | C[O-].[Na+]
product | 8-benzyloxy-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.6 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C21H22N4O
